US07763751B2
N-(1-Methyl-2-(3,4-dimethoxy-phenyl)-ethyl)-O-ethyl-hydroxylamine
1-(3,4-Dimethoxyphenyl)-2-propanone (1.35 g, 7.5 mmol) was dissolved in H2O (15 ml) and a solution of O-ethylhydroxylamine hydrochloride (1 g, 10 mmol) and Na2CO3 (0.53 g, 5 mmol) in water (10 ml) was added dropwise under stirring at 10° C. The reaction was left at room temperature overnight and then extracted with diethyl ether. After evaporation of the solvent, the residue was dissolved in EtOH (20 ml) and concentrated hydrochloric acid (1 ml), then hydrogenated over PtO2 at 3,6×106 Pa (50 psi). The solvent was removed under vacuum. The residue was dissolved in 30 ml of water, the aqueous phase was made basic with NaHCO3 and extracted with ethyl acetate. The organic phase was dried over MgSO4, filtered and concentrated to dryness. The crude residue was purified by flash chromatography, to afford 0.75 g of the title compound.

reactant | 1-(3,4-Dimethoxyphenyl)-2-propanone | 7.5 mmol, 1.35 g | COC=1C=C(C=CC1OC)CC(C)=O | C11H14O3
reactant | O-ethylhydroxylamine hydrochloride | 10 mmol, 1 g | Cl.C(C)ON
reactant | Na2CO3 | 5 mmol, 0.53 g | C(=O)([O-])[O-].[Na+].[Na+]
solvent | H2O | 15 ml | O | H2O
solvent | water | 10 ml | O | H2O
product | N-(1-Methyl-2-(3,4-dimethoxy-phenyl)-ethyl)-O-ethyl-hydroxylamine | 0.75 g | CC(CC1=CC(=C(C=C1)OC)OC)NOCC | C13H21NO3
